US04402699
2,4-dichloro-3-(isopropylidene)-aminophenol hydrochloride
Corresponding to the procedure and data in Example 1, 2,4-dichloro-3-aminophenol hydrochloride was reacted with acetone. The reaction product obtained according to this example of this invention had the following characteristic data: IR-spectrum (KBr) cm-1 1652, 1598, 1570, 1480, 1438, 1370, 1315, 1260, 1238, 1225, 1218, 1176, 1112, 1085, 1010, 980, 930, 870, 835, 805, 762, 730, 710, 675, 655.

reactant | 2,4-dichloro-3-aminophenol hydrochloride | Cl.ClC1=C(C=CC(=C1N)Cl)O
reactant | KBr | [K+].[Br-]
reactant | acetone | CC(=O)C | C3H6O
product | 2,4-dichloro-3-(isopropylidene)-aminophenol hydrochloride | Cl.ClC1C(=CC(=C(C1=C(C)C)Cl)N)O | InChI=1S/C9H11Cl2NO.ClH/c1-4(2)7-8(10)5(12)3-6(13)9(7)11;/h3,9,13H,12H2,1-2H3;1H
